US07635684B2
4-[(4-{3-[2-(Carbamoyl)ethylamino]propoxy}-2-methylphenyl)-methyl]-3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-isopropyl-1H-pyrazole
To a solution of 4-[(4-{3-[2-(carbamoyl)ethylamino]-propoxy}-2-methylphenyl)methyl]-1-(3-hydroxypropyl)-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.3 g) in methanol (6 mL) was added sodium methoxide (28% methanol solution, 0.25 mL), and the mixture was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (0.16 g).

reactant | 4-[(4-{3-[2-(carbamoyl)ethylamino]-propoxy}-2-methylphenyl)methyl]-1-(3-hydroxypropyl)-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.3 g | C(N)(=O)CCNCCCOC1=CC(=C(C=C1)CC=1C(=NN(C1C(C)C)CCCO)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C49H78N4O13
reactant | sodium methoxide | 0.25 mL | C[O-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | 4-[(4-{3-[2-(Carbamoyl)ethylamino]propoxy}-2-methylphenyl)-methyl]-3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-isopropyl-1H-pyrazole | 0.16 g | C(N)(=O)CCNCCCOC1=CC(=C(C=C1)CC=1C(=NN(C1C(C)C)CCCO)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C29H46N4O9
